US04398939
4-Bromo-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-3-thiophenesulfonamide
To 1.1 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 20 ml of tetrahydrofuran was added 2 g of 4-bromo-3-thiophenesulfonyl isocyanate in 5 ml of tetrahydrofuran. The mixture was then stirred and warmed on a steam bath for 15 minutes and allowed to stir at ambient temperature for 70 hours. It was then heated to reflux for 2 hours, cooled to 10° C., filtered and the filtrate evaporated. The residual oil was triturated to yield the desired product as a solid which after recrystallization from acetonitrile melted at 180°-183°, yield 1.5 g.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 1.1 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | 4-bromo-3-thiophenesulfonyl isocyanate | 2 g | BrC=1C(=CSC1)S(=O)(=O)N=C=O | C5H2BrNO3S2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-Bromo-N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-3-thiophenesulfonamide | BrC=1C(=CSC1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C10H10BrN5O4S2
